US07037929B1
5-benzyloxy-1-methoxy-pentane
1.6 g (0.039 mol) of 55% sodium hydride in oil were added to 50 ml of dimethylformamide under stirring at room temperature. 5 ml (0.026 mol) of 5-benzyloxy-1-pentanol and 2.43 ml (0.039 mol) of methyl iodide were then added successively. After a night the excess of sodium hydride was decomposed with water and the solvent evaporated under vacuum. The residue was redissolved with methylene chloride and washed with water. The organic layer was finally dried over anhydrous sodium sulfate and evaporated to give 3.5 g (70% yield) of the title compound.

reactant | sodium hydride | 0.039 mol, 1.6 g | [H-].[Na+]
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | 5-benzyloxy-1-pentanol | 0.026 mol, 5 ml | C(C1=CC=CC=C1)OCCCCCO | C12H18O2
reactant | methyl iodide | 0.039 mol, 2.43 ml | CI | CH3I
solvent | water | O | H2O
product | 5-benzyloxy-1-methoxy-pentane | 3.5 g, 70% yield | C(C1=CC=CC=C1)OCCCCCOC | C13H20O2
